US05888940
2-Bromo-4,6-dichlorobenzothiazole
35 g (0.24 mol) of copper(I) bromide and 126 g (1.23 mol) of sodium bromide were added to a solution of 27 g (0.12 mol) of 2-amino-4,6-dichlorobenzothiazole in 0.5 1 of acetonitrile, and 16.5 g (0.16 mol) of tert-butyl nitrite were then added dropwise. Stirring was carried out for 16 hours, after which the reaction mixture was acidified with 10% strength hydrochloric acid. The product was then extracted with methyl tert-butyl ether. The organic phase was washed with water, dried over magnesium sulfate and finally evaporated down. Purification of the crude product was carried out by means of column chromatography over silica gel (eluent: 1:1 cyclohexane/ethyl acetate). Yield: 9.1 g.

reactant | sodium bromide | 1.23 mol, 126 g | [Br-].[Na+]
reactant | 2-amino-4,6-dichlorobenzothiazole | 0.12 mol, 27 g | NC=1SC2=C(N1)C(=CC(=C2)Cl)Cl | C7H4Cl2N2S
reactant | tert-butyl nitrite | 0.16 mol, 16.5 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | hydrochloric acid | Cl | ClH
catalyst | copper(I) bromide | 0.24 mol, 35 g | [Cu]Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Bromo-4,6-dichlorobenzothiazole | BrC=1SC2=C(N1)C(=CC(=C2)Cl)Cl | C7H2BrCl2NS
